US07989445B2
tert-Butyl 2-acetyl-1-[4-(cyanomethyl)phenyl]-2-methylhydrazinecarboxylate (607 mg) and cobalt chloride (520 mg) were dissolved in methanol (20 ml), and sodium borohydride (757 mg) was added by small portions at 0° C. The reaction mixture was stirred at room temperature for 2.5 hr, and diluted with ethyl acetate (200 ml). The obtained diluted solution was passed through basic silica gel (100 g) and washed with ethyl acetate:methanol=10:1 (volume ratio). The filtrate was concentrated under reduced pressure to give tert-butyl 2-acetyl-1-[4-(2-aminoethyl)phenyl]-2-methylhydrazinecarboxylate as a colorless oil.

reactant | tert-Butyl 2-acetyl-1-[4-(cyanomethyl)phenyl]-2-methylhydrazinecarboxylate | 607 mg | C(C)(=O)N(N(C(=O)OC(C)(C)C)C1=CC=C(C=C1)CC#N)C | C16H21N3O3
reactant | sodium borohydride | 757 mg | [BH4-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | cobalt chloride | 520 mg | [Co](Cl)Cl
product | tert-butyl 2-acetyl-1-[4-(2-aminoethyl)phenyl]-2-methylhydrazinecarboxylate | C(C)(=O)N(N(C(=O)OC(C)(C)C)C1=CC=C(C=C1)CCN)C | C16H25N3O3
